US07547691B2
Benzhydryl bromide (4.33 g, 17.5 mmol) is added to s stirred solution of 2,6-cis-dimethylpiperazine (2.00 g, 17.5 mmol) and diisopropylethylamine (2.94 g, 22.8 mmol) in anhydrous dichloromethane (50 mL) at 0° C. The resultant mixture is allowed to stir overnight. After concentration and subsequent chromatography on silica gel, eluting with 2 M NH3/CH3OH in dichloromethane: 1-3%, benzhydryl-3,5-cis-dimethyl-piperazine is obtained as a white solid (3.0 g, 61% yield).

reactant | Benzhydryl bromide | 17.5 mmol, 4.33 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C13H11Br
reactant | 2,6-cis-dimethylpiperazine | 17.5 mmol, 2.00 g | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
reactant | diisopropylethylamine | 22.8 mmol, 2.94 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | benzhydryl-3,5-cis-dimethyl-piperazine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C[C@H](N[C@H](C1)C)C | C19H24N2
